US08536160B2
5α-Hydroxy-6-(E)-methoxyiminoandrostane-3,17-dione (II-ar)
The title compound II-ar was prepared in 80% yield from 3,3:17,17-bis(ethylendioxy)-5α-hydroxy-6-(E)-methoxyiminoandrostane by the procedure described above for the preparation of 6-methyleneandrostane-3,17-dione (II-ac, Prepn. 13). The combined organic extracts were washed with H2O, dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (SiO2, n-hexane/acetone/CH2Cl2 60/20/20). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 5.46 (1H, s), 3.75 (3H, s), 3.20-2.93 (1H, dd), 2.86-2.75 (1H, d), 2.30-1.10 (17H, m), 0.96 (3H, s), 0.77 (3H, s).

reactant | 17,17-bis(ethylendioxy)-5α-hydroxy-6-(E)-methoxyiminoandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C\C(\[C@]3(CCCC[C@]3(C)[C@H]1CC4)O)=N/OC | C24H37NO6
reactant | 6-methyleneandrostane-3,17-dione | C=C1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H28O2
product | 5α-Hydroxy-6-(E)-methoxyiminoandrostane-3,17-dione | 80% yield | O[C@]12/C(/C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC(C1)=O)C)=O)=N/OC | C20H29NO4
